US05643927
3-Hydroxymethyl-7-[3-(4-p-fluorobenzoyl-1-piperidinyl)propoxy]-chromen-4-one hydrochloride
A mixture of 1.6 g (6 mmole) of 7-(3-chloropropoxy-3-(hydroxymethyl)chromen-4-one, 1.2 g (6 mmole) de 4-(p-fluorobenzoyl)piperidine, 2 g (14 mmole) of anhydrous potassium carbonate and 0.5 g of potassium iodide in 30 ml of acetonitrile was heated for 24 hours at reflux, allowed to cool, filtered, and the filtrate was evaporated to dryness. The residue was dissolved in dichloromethane, washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and evaporated. The product was dissolved in acetone and precipitated by addition of a hydrogen chloride solution. The precipitate was collected by filtration, washed with acetone, and recrystallized from methanol-ethyl ether to give 0.5 g (18%) of a solid, melting point 217°-218° C. (d).

reactant | 3-chloropropoxy-3-(hydroxymethyl)chromen-4-one | ClCCCOC=1OC2=CC=CC=C2C(C1CO)=O | C13H13ClO4
reactant | 4-(p-fluorobenzoyl)piperidine | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | potassium carbonate | 14 mmole, 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-Hydroxymethyl-7-[3-(4-p-fluorobenzoyl-1-piperidinyl)propoxy]-chromen-4-one hydrochloride | 0.5 g, 18% | Cl.OCC1=COC2=CC(=CC=C2C1=O)OCCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | InChI=1S/C25H26FNO5.ClH/c26-20-4-2-17(3-5-20)24(29)18-8-11-27(12-9-18)10-1-13-31-21-6-7-22-23(14-21)32-16-19(15-28)25(22)30;/h2-7,14,16,18,28H,1,8-13,15H2;1H
